US08080580B2
(4S,5S)-3,4,5-tris-benzyloxy-2-[3-(4-methoxy-benzyl)-4-methyl-phenyl]-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol (I-1i)
n-Butyl lithium (0.97 mL, 2.5 M/hexanes, 3.15 equivalents) was added dropwise (1 drop every 5 seconds) to an oxygen degassed solution (placed in a pre dried Biotage™ microwave vial 10-20 mL sealed with its cap and placed under a positive stream of nitrogen gas) of 4-bromo-2-(4-methoxy-benzyl)-1-methyl-benzene (690 mg, 3 equivalents) in anhydrous tetrahydrofuran (2.7 mL) at −78° C. and the resulting solution was stirred at this temperature for an additional hour. A solution of (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide (I-g) (608 mg) in anhydrous tetrahydrofuran (1.35 mL) was then added dropwise over 1.5 hours using a syringe pump and the resulting mixture was stirred at −78° C. for 1 hour before being allowed to warm to −20° C. over 14 hours (put in a deep Dewar covered with aluminum foil to maintain cold temperature; size of Dewar: external diameter 10 cm, internal diameter 8 cm, height 9 cm). Diethyl ether was added and the reaction was quenched by dropwise addition of 1M aqueous hydrochloric acid solution. The resulting biphasic mixture was stirred at room temperature for 15 minutes. The organic phase was separated, washed with brine, dried over magnesium sulfate, filtered and concentrated. Chromatography over silica gel using a gradient of 20 to 50% ethyl acetate in heptane gave the product as a mixture of isomers (440 mg, 61% yield).

reactant | n-Butyl lithium | 2.5 M, 0.97 mL, 3.15 equivalents | C(CCC)[Li]
reactant | oxygen | O=O | O2
reactant | 4-bromo-2-(4-methoxy-benzyl)-1-methyl-benzene | 690 mg, 3 equivalents | BrC1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OC | C15H15BrO
reactant | (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide | 608 mg | CON(C([C@@H]([C@H]([C@@H](C(COCC1=CC=C(C=C1)OC)(COCC1=CC=C(C=C1)OC)O)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C | C46H53NO10
reactant | aluminum | [Al] | Al
reactant | tetrahydrofuran | 2.7 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1.35 mL | O1CCCC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | (4S,5S)-3,4,5-tris-benzyloxy-2-[3-(4-methoxy-benzyl)-4-methyl-phenyl]-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol | 61% yield | C(C1=CC=CC=C1)OC1C(OC([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)(COCC1=CC=C(C=C1)OC)COCC1=CC=C(C=C1)OC)(O)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OC | C59H62O10
